US06235785B1
B. Preparation of 2-(3-hydroxy-2-butylphenoxy)-benzoic acid methyl ester
2-Butyl-1,3-dimethoxybenzene (14.98 g, 77.6 mmol) was de-methylated as described above for the preparation of Example 10(B) to provide 19 g crude product as a brown oil. A solution of 15 g of this material and potassium tert-butoxide (9.70 g, 86.5 mmol) in pyridine (150 mL) was added to a second solution of methyl 2-iodobenzoate (11.9 g, 180 mmol) and copper(I) iodide (17.3 g, 91.0 mmol) in pyridine (150 mL). The resulting mixture was refluxed for 36 hours. The mixture was cooled to room temperature, diluted with water, and extracted three times with diethyl ether. The combined ether fractions were filtered through a mat of Celite®, washed once with 5N aqueous hydrochloric acid, once with 2N aqueous sodium hydroxide, and filtered again through a mat of Celite®. The resulting solution was dried over magnesium sulfate, filtered, and evaporated in vacuo. Silica gel chromatography (ethyl acetate/hexane) provided 3.02 g (11%) of the title intermediate product as an orange oil: NMR (CDCl3) 7.91 (d, J=8 Hz, 1H), 7.41 (t, J=8 Hz, 1H), 7.14 (t, J=8 Hz, 1H), 6.97 (t, J=9 Hz, 1H), 6.83 (d, J=8 Hz, 1H), 6.59 (d, J=8 Hz, 1H), 6.39 (d, J=8 Hz, 1H), 5.04 (bs, 1H, —OH), 3.83 (s, 3H), 2.66 (t, J=9 Hz, 2H), 1.54 (quintet, J=5 Hz, 2H), 1.35 (hextet, J=5 Hz, 2H), 0.91 (t, J=8 Hz, 3H); MS-EI m/e 300 (p, 34), 225 (100), 213 (42), 197 (53), 107 (38); IR (mull, cm−1) 3410, 2926, 1709, 1600, 1463, 1234, 1107, 1090, 992.

reactant | 2-Butyl-1,3-dimethoxybenzene | 77.6 mmol, 14.98 g | C(CCC)C1=C(C=CC=C1OC)OC | C12H18O2
reactant | potassium tert-butoxide | 86.5 mmol, 9.70 g | CC(C)([O-])C.[K+]
reactant | methyl 2-iodobenzoate | 180 mmol, 11.9 g | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
catalyst | copper(I) iodide | 91.0 mmol, 17.3 g | [Cu]I
product | 2-(3-hydroxy-2-butylphenoxy)-benzoic acid methyl ester | 3.02 g, 11% | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)O)CCCC)=O | C18H20O4
